US07135502B1
Chlorosulphonic acid (1 ml) was added at 0° C. in portions to a solution of pyridine (10 ml). After 15 minutes at 0° C., a solution of N-acetyl-colchicinol (1 g, 2.8 mmol) in pyridine (10 ml) was added. The solution was stirred overnight at ambient temperature. Water (30 ml) was added and the mixture was adjusted to pH8 by addition of sodium hydrogen carbonate. The aqueous layer was extracted with ether (3×20 ml) and purified on HP20SS resin, eluted with a 0–40% gradient of methanol/water. The volatiles were removed by evaporation to give (5S)-5-(acetylamino)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-3-yl hydrogen sulphate as a white solid.

reactant | Chlorosulphonic acid | 1 ml | ClS(=O)(=O)O | ClHO3S
reactant | N-acetyl-colchicinol | 2.8 mmol, 1 g | CC(=O)NC1CCC2=CC(=C(C(=C2C3=C1C=C(C=C3)O)OC)OC)OC | C20H23NO5
reactant | Water | 30 ml | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | (5S)-5-(acetylamino)-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-3-yl hydrogen sulphate | Yield=71% | S(=O)(=O)(OC=1C=CC2=C([C@H](CCC3=C2C(=C(C(=C3)OC)OC)OC)NC(C)=O)C1)O | C20H23NO8S
